US05395722
In a 20 liter stainless steel reaction vessel were mixed 817 g (2.08 mols) of perylene-3,4,9,10-tetracarboxylic acid dianhydride, 1169 g (10.4 mols) of o-phenylenediamine, and 9.36 liters of 1-chloronaphthalene. The mixture obtained was heated to a temperature of from 240° C. to 250° C. for 3 hours with stirring and then cooled to room temperature. Then, a solid product formed was obtained by filtering the reaction mixture with a filter cloth and then washed thrice with N,N-dimethylformamide. Thereafter, the solid product was mixed with an alcohol solution of sodium hydroxide to provide a slurry. After filtering the slurry, the solid product collected was washed with N,N-dimethylformamide and then methanol, and then dried overnight in an oven at 95° C. to provide 1100 g of a bisbenzimidazole perylene pigment (a mixture of the cis form and the trans form). Furthermore, the pigment was purified by sublimation. The powder X-ray diffraction pattern of the pigment after the purification by sublimation is shown in FIG. 1 (showing strong peaks at 0.8°, 10.2°, and 12.5°).

reactant | o-phenylenediamine | 10.4 mols, 1169 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 1-chloronaphthalene | 9.36 liters | ClC1=CC=CC2=CC=CC=C12 | C10H7Cl
product | bisbenzimidazole perylene | 1100 g | C1=CC=C2C=CC=C3C4=CC=CC5=CC=CC(C1=C23)=C45.N4=CNC5=C4C=CC=C5.N5=CNC4=C5C=CC=C4 | InChI=1S/C20H12.2C7H6N2/c1-5-13-6-2-11-17-18-12-4-8-14-7-3-10-16(20(14)18)15(9-1)19(13)17;2*1-2-4-7-6(3-1)8-5-9-7/h1-12H;2*1-5H,(H,8,9)
